US06991798B1
A 5 C mixture of 4(4-aminophenyl)butyric acid (1.0 eq) and aqueous 6N hydrochloric acid (5.44 eq) was treated with 1.05 eq of a 3N aqueous solution of sodium nitrite, adding slowly so as to keep the temperature below 5 C. A solution of 2.8N aqueous potassium iodide (1.01 eq) was added. The reaction was stirred overnight. The layers were separated. The organic phase was purified by flash chromatography using methanol/methylene chloride as eluant to give 4-(4-iodophenyl)butyric acid.

reactant | 4(4-aminophenyl)butyric acid | 1.0 eq | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
reactant | hydrochloric acid | 6N, 5.44 eq | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | potassium iodide | 2.8N, 1.01 eq | [I-].[K+]
product | 4-(4-iodophenyl)butyric acid | IC1=CC=C(C=C1)CCCC(=O)O | C10H11IO2
